US06130338
To a solution of 15.9 g (0.1 mol) of 1-benzyl-3-pyrroline, 46.2 g (0.24 mol) of p-chlorobenzenesulfonic acid (produced by Tokyo Chemical Industry Co., Ltd.), 15.0 g of water, and 60.0 g of acetone in a round flask reactor, 31.1 g (0.13 mol) of 70% m-CPBA (m-chloroperbenzoic acid produced by Tokyo Chemical Industry Co., Ltd.) was added with stirring and allowed to react for 10 hours at 40° C. without irradiation by lamps. After completion, acetone was evaporated under reduced pressure, neutralized by NaOH (aq), and extracted with toluene and water. After the solvent was evaporated under reduced pressure, 16.8 g of 1-benzyl-3,4-dihydroxypyrrolidine (yield 86.9%) was obtained.

reactant | 1-benzyl-3-pyrroline | 0.1 mol, 15.9 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | p-chlorobenzenesulfonic acid | 0.24 mol, 46.2 g | ClC1=CC=C(C=C1)S(=O)(=O)O | C6H5ClO3S
reactant | water | 15.0 g | O | H2O
reactant | m-CPBA | 0.13 mol, 31.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | acetone | 60.0 g | CC(=O)C | C3H6O
product | 1-benzyl-3,4-dihydroxypyrrolidine | 16.8 g, yield 86.9% | C(C1=CC=CC=C1)N1CC(C(C1)O)O | C11H15NO2
